US05300497
In 132 ml of methylene chloride was dissolved 6.6 g of (3R,5R,6R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-6-phenylacetamido-4-thia-1-azabicyclo[3.2.0]heptane. The solution was cooled to -60° C. Thereto were added 4.66 ml of N,N-dimethylaniline and 3.3 g of phosphorus pentachloride. The mixture was stirred at -40° to -20° C. for 1 hour and cooled to -60° C. To the reaction mixture was added 13.8 ml of anhydrous methanol. The temperature of the mixture was elevated to 0° C. in 30 minutes and mixed with 66 ml of water. The resulting mixture was stirred for 15 minutes with ice cooling. The resulting crystals were collected by filtration and suspended in a mixed solvent consisting of 50 ml of water and 100 ml of methylene chloride. The suspension was adjusted to pH 7.5 with a saturated aqueous sodium hydrogencarbonate solution. The organic layer was separated and dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure to obtain 4.5 g (yield: 84.0%) of (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane.

reactant | (3R,5R,6R)-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-6-phenylacetamido-4-thia-1-azabicyclo[3.2.0]heptane | 6.6 g | C(C1=CC=CC=C1)=NN1C(N(CC1)[C@@]1(CN2C([C@H]([C@H]2S1)NC(CC1=CC=CC=C1)=O)=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=O | C31H28N6O7S
reactant | N,N-dimethylaniline | 4.66 ml | CN(C1=CC=CC=C1)C | C8H11N
reactant | phosphorus pentachloride | 3.3 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
reactant | methanol | 13.8 ml | CO | CH4O
solvent | methylene chloride | 132 ml | C(Cl)Cl | CH2Cl2
solvent | water | 66 ml | O | H2O
product | (3R,5R,6R)-6-amino-3-(3-benzylideneamino-2-oxoimidazolidin-1-yl)-3-(p-nitrobenzyloxycarbonyl)-7-oxo-4-thia-1-azabicyclo[3.2.0]heptane | 4.5 g, yield: 84.0% | N[C@H]1[C@H]2S[C@](CN2C1=O)(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])N1C(N(CC1)N=CC1=CC=CC=C1)=O | C23H22N6O6S
